US08426447B2
A resealable tube was charged with (1R,2R)-diaminomethylcyclohexane (9.77 mg, 0.069 mmol), copper(I) iodide (8.72 mg, 0.046 mmol), 10-methylene-8-(pyridin-3-yl)-2,10-dihydro-1H-chromeno[3,2-c]pyridin-1-one (0.066 g, 0.229 mmol), 4-iodotoluene (0.055 g, 0.252 mmol), potassium carbonate (0.063 g, 0.458 mmol), and DMSO (2.5 mL). The system was purged with argon and the tube was sealed. The mixture stirred in an Initiator microwave reactor (Personal Chemistry, Biotage AB, Inc., Upssala, Sweden) at 100° C. for 2 h. The reaction mixture was diluted with dichloromethane and filtered through a pad of celite. The filtrate was concentrated and partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 10-methylene-8-(pyridin-3-yl)-2-p-tolyl-2,10-dihydro-1H-chromeno[3,2-c]pyridin-1-one. MS m/z=379.0 [M+H]+. Calcd for C25H18N2O2: 378.4.

reactant | (1R,2R)-diaminomethylcyclohexane | 0.069 mmol, 9.77 mg | CN[C@@H]1CCCC[C@H]1NC | C8H18N2
reactant | 10-methylene-8-(pyridin-3-yl)-2,10-dihydro-1H-chromeno[3,2-c]pyridin-1-one | 0.229 mmol, 0.066 g | C=C1C=2C=C(C=CC2OC2=C1C(NC=C2)=O)C=2C=NC=CC2 | C18H12N2O2
reactant | 4-iodotoluene | 0.252 mmol, 0.055 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 0.458 mmol, 0.063 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.046 mmol, 8.72 mg | [Cu]I
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 10-methylene-8-(pyridin-3-yl)-2-p-tolyl-2,10-dihydro-1H-chromeno[3,2-c]pyridin-1-one | C=C1C=2C=C(C=CC2OC2=C1C(N(C=C2)C2=CC=C(C=C2)C)=O)C=2C=NC=CC2 | C25H18N2O2
